US05324722
4-chloro-2-nitro-1-phenoxybenzene
To a stirred solution of phenol (36.6 g, 0.39 mol) in DMF (250 mL) was added sodium hydride (10 g, 0.42 mol) in portions. To the resulting solution was added a solution of 2,5-dichloronitrobenzene (68 g, 0.35 mol) in DMF (500 mL), and the mixture was stirred for 16 hours. The solvent was removed under reduced pressure, and the residue was takene up in EtOAc (400 mL) and extracted with brine (saturated, 400 mL). The product was distilled to yield a yellow liquid (84.2 g, 95%), which had a boiling point of 245°-265° C./1.5 mmHg. This material was employed in Example 9 without further purification.

reactant | phenol | 0.39 mol, 36.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 0.42 mol, 10 g | [H-].[Na+]
reactant | 2,5-dichloronitrobenzene | 0.35 mol, 68 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-nitro-1-phenoxybenzene | 84.2 g, 95% | ClC1=CC(=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO3
